US07834052B2
4-Amino-3-methyl-benzoic acid
To a solution of 3-methyl-4-nitro-benzoic acid (100 g, 0.55 mol) in DMF (500 mL), suspension of activated Raney Ni (50 g) in DMF (50 mL) was added and was subjected to hydrogenation (200 psi pressure and 25° C.) for 6 h. The reaction mixture was filtered through celite bed and was concentrated to one third of the total volume. The reaction mixture was poured into water (1300 mL) with stirring. The solid was filtered, washed with water and dried to obtain the title compound. Yield: 70 g (84%); 1H NMR (DMSO-d6, 300 MHz): δ 2.03 (s, 3H, CH3), 5.60 (s, 2H, NH2), 6.56 (d, 1H, Ar), 7.46 (d, 1H, Ar), 7.49 (s, 1H, Ar); MS: m/e (ES−) 150 (M−1).

reactant | 3-methyl-4-nitro-benzoic acid | 0.55 mol, 100 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | Ni | 50 g | [Ni] | Ni
product | 4-Amino-3-methyl-benzoic acid | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
